US06271249B1
4-(5-Chloro-2-methoxyphenyl)-5-[4-(trifluoromethyl)phenyl]-2,4-dihydro-3H-1,2,4-triazol-3-thione
N-(5-Chloro-2-methoxyphenyl)-4-(trifluoromethyl)benzene carbohydrazonamide (2.5 g, 7.27 mmol) was dissolved in THF (450 ml) under N2 and 1,1′-thiocarbonyldiimidazole (1.95 g, 11.0 mmol) added. The solution was stirred at reflux for 18 h and solvent removed by rotary evaporation. The residue was taken up in ethyl acetate (400 ml) and washed with 0.1N HCl solution (100 ml), water (100 ml) and brine prior to drying over MgSO4. Recrystallization from acetonitrile gave 1.91 g (68%) mp 275-280° C.; IR(KBr, υ=cm−1) 3080, 3058, 3020, 2916, 1506, 1488, 1322, 1288, 1174, 1130, 1110; 1H NMR (300 MHz, DMSO-d6) δ 3.51 (3H, s), 7.17 (1H, d, J=9.0 Hz), 7.53-7.57 (3H, m), 7.69 (1H, d, J=2.6 Hz), 7.77 (2H, d, J=8.4 Hz.s), 14.29 (1H, s); MS(DCl)m/z: 386(MH+). Anal. calcd. for C16H11ClF3N3OS.0.06 CH3CN: C, 49.87; H, 2.90; N, 11.04. Found: C, 50.03; H, 2.94; N, 11.07.

reactant | N-(5-Chloro-2-methoxyphenyl)-4-(trifluoromethyl)benzene carbohydrazonamide | 7.27 mmol, 2.5 g | ClC=1C=CC(=C(C1)NC(=NN)C1=CC=C(C=C1)C(F)(F)F)OC | C15H13ClF3N3O
reactant | 1,1′-thiocarbonyldiimidazole | 11.0 mmol, 1.95 g | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
reactant | KBr | [K+].[Br-]
reactant | CH3CN | CC#N | C2H3N
solvent | THF | 450 ml | C1CCOC1 | C4H8O
product | 4-(5-Chloro-2-methoxyphenyl)-5-[4-(trifluoromethyl)phenyl]-2,4-dihydro-3H-1,2,4-triazol-3-thione | ClC=1C=CC(=C(C1)N1C(NN=C1C1=CC=C(C=C1)C(F)(F)F)=S)OC | C16H11ClF3N3OS
